### ISSUE TITLE
Incorrect simp tracing for local right-to-left simp theorems (`[<- x]`)

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#2131]
MWE:

```lean
structure A
structure B

theorem stuff : A = B := sorry

example : B := by
  set_option tactic.simp.trace true in
  simp [← stuff] -- Try this: simp only [stuff] // should be: simp only [← stuff]
  exact A.mk
```

Tested with Lean 4 nightly 2023-03-01.

Reported on Zulip: https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.60simp.3F.60.20dropping.20.60.3C-.60

**Comment by semorrison** [comment]
@digama0, is the correct fix here to add a `inv` field to the constructors of `Origin`, and then record the `inv : Bool` argument from functions such as `mkSimpTheoremsFromConst` into this field?
